Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Celexa / Pineapple
 
Attending: ___.
 
Chief Complaint:
Hypotension
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mrs. ___ is a ___ woman with dementia, DMII, HTN, CVA 
x2 (on plavix and coumadin), and CRI who was transferred from 
___ yesterday for concern of sepsis ___ 
cholangitis. She had been brought to ___ from her nursing home 
for AMS and fever. She was found to have a WBC to 18 and 
elevated LFTs (ALT 294, AST 195, TB 2.8, APhos 386). Although 
she was previously DNR/DNI, her family reversed the DNI order 
and she was subsequently intubated for respiratory distress and 
airway protection.

At ___, she underwent a CT abdomen/pelvis (non-contrast due to 
elevated Cr), which revealed extensive fecal loading but no 
evidence of biliary pathology. Her U/A was grossly positive. She 
was admitted to the MICU given her hypotension (SBP 70-80s). 
Stool disimpaction was performed with retrieval of a large 
amount of stool, which was trace guaiac+. However, despite this, 
her lactate continued to trend up (from 3.7 to 5.8) and she 
remained hypotensive despite generous fluid resuscitation. She 
had received 4L prior to her MICU admission and received a 
further 3L while in the ICU but was still requiring levophed. 
She has received empiric vanc/zosyn, as well as IV flagyl for 
coverage of cdiff.
 
Past Medical History:
DMII (c/b neuropathy and nephropathy, HgbA1c 7.1% in ___,
HTN, HPL, CVA x2 (___), upper GI bleed, MRSA+, prior
aspiration pneumonia, glaucoma, dementia, generalized seizures
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS - 98.8  102 (SR)  98/50 (levo @ 0.35)  32  99%
VENT - CMV 40% / 380 x 32 / 9
GEN - intubated, sedated
HEENT - no scleral icterus
___ - tachycardic, regular (sinus)
PULM - intubated, diminished breath sounds at bases b/l (L>R)
ABD - obese, moderately distended; patient grimaces to 
palpation;
pt has 2cm transverse scar in the epigastrium (? prior PEG site)
EXTREM - warm, well-perfused, no peripheral edema

DISCHARGE PHYSICAL EXAM
Deceased.
 
Pertinent Results:
___ 12:30PM BLOOD WBC-14.5* RBC-3.43* Hgb-10.5* Hct-33.0* 
MCV-96 MCH-30.6 MCHC-31.8 RDW-14.8 Plt ___
___ 12:56PM BLOOD ___ PTT-45.2* ___
___ 12:30PM BLOOD Glucose-464* UreaN-74* Creat-1.7* Na-154* 
K-4.0 Cl-121* HCO3-14* AnGap-23*
___ 12:30PM BLOOD ALT-220* AST-114* AlkPhos-283* 
TotBili-2.5* DirBili-2.1* IndBili-0.4
___ 12:30PM BLOOD Albumin-2.7* Calcium-7.6* Phos-3.1 
Mg-2.8*
___ 12:51PM BLOOD Type-ART PEEP-5 FiO2-100 pO2-317* 
pCO2-30* pH-7.33* calTCO2-17* Base XS--8 AADO2-353 REQ O2-65
___ 12:51PM BLOOD Lactate-3.7*
___ 04:01PM BLOOD Lactate-8.8*
___ 01:40PM URINE Blood-MOD Nitrite-NEG Protein-300 
Glucose-70 Ketone-TR Bilirub-MOD Urobiln-4* pH-6.0 Leuks-MOD
___ 01:40PM URINE RBC-83* WBC-78* Bacteri-MOD Yeast-NONE 
Epi-1

___ blood culture - negative
___ urine culture - negative
___ C. Diff - negative
___ blood culture - negative
___ urine culture - negative

CXR ___
1. ETT terminates 2.4 cm above the carinal and with apparent 
mildly 
overinflated cuff. 
2. Enteric tube with tip in the proximal stomach. 
3. Low lung volumes with bibasilar atelectasis. 

CT Abdomen/Pelvis w/o Contrast ___
IMPRESSION:  Fecal impaction in the rectum causing large bowel 
obstruction, the rectum is dilated to 10 cm.  Fat stranding in 
the presacral space and bowel wall thickening at the level of 
the rectum are concerning for stercoral colitis. There is no 
free air to suggest perforation. 

CT Head w/o Contrast ___
IMPRESSION: No acute intracranial process.
 
Brief Hospital Course:
___ woman with dementia, DMII, HTN, CVA x2 (on plavix 
and coumadin), and CRI who was transferred from ___ 
___ yesterday for concern of sepsis ___ cholangitis.

# Septic Shock
She underwent a CT abdomen/pelvis, which revealed extensive 
fecal loading but no evidence of biliary pathology. She was 
admitted to the MICU given her hypotension (SBP 70-80s). Stool 
disimpaction was performed aggressively multiple times with 
retrieval of a large amount of stool, which was trace guaiac 
positive. However, despite this, her lactate continued to trend 
up (from 3.7 to 5.8) and she remained hypotensive despite 
generous fluid resuscitation. She had received 4L prior to her 
MICU admission and received a further 3L while in the ICU but 
was still requiring levophed. She received empiric vanc/zosyn, 
as well as IV flagyl for coverage of c diff empirically. The ACS 
service was consulted for consideration of ischemic colitis as 
potential source of rising lactate and persistent hypotension. 
Her exam was concerning for abdominal distension and apparent 
discomfort with abdominal palpation, and CT was suggestive of 
possible ischemic colitis related to massive dilaion of bowel 
with stool. They thought her sepsis was likely due to a urinary 
source rather than ischemic bowel, and did not think surgical 
intervention was indicated. Overnight, her lactate continued 
trend up with increasing pressor requirements. Urine and blood 
cultures remained negative. Her family decided to make her CMO 
and she expired shortly after.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirtazapine 15 mg PO HS 
2. Pravastatin 40 mg PO DAILY 
3. DiphenhydrAMINE 25 mg PO Q8H:PRN itch 
4. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
5. Bisacodyl ___AILY:PRN constipation 
6. Aluminum-Magnesium Hydrox.-Simethicone 30 mL PO QID:PRN acid 
reflux 
7. Docusate Sodium 100 mg PO BID:PRN constipation 
8. Acetaminophen 650 mg PO Q4H:PRN fever 
9. Glargine 10 Units Breakfast
10. Venlafaxine 37.5 mg PO BID 
11. Omeprazole 20 mg PO DAILY 
12. Amlodipine 5 mg PO DAILY 
13. Magnesium Oxide 400 mg PO BID 
14. Aspirin 81 mg PO DAILY 
15. Lisinopril 20 mg PO DAILY 
16. Clopidogrel 75 mg PO DAILY 
17. Senna 8.6 mg PO DAILY 
18. Warfarin 5 mg PO 3X/WEEK (___) 
19. Warfarin 4.5 mg PO 4X/WEEK (___) 

 
Discharge Medications:
Expired.
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Expired.
 
Discharge Condition:
Expired.
 
Discharge Instructions:
Expired.
 
Followup Instructions:
___